US07161024B2
Preparation of 2,4,6-Trimethylpyrimidine-5-Carboxylic Acid
Methyl 2,4,6-trimethylpyrimidine-5-carboxylate (27 g), methanol (27 ml) and water (27 ml) were charged. 25% sodium hydroxide solution (25 ml) was charged and the batch warmed to 50° C. for 90 minutes. The batch was cooled to between −5 and 0° C. and concentrated hydrochloric acid was charged slowly, keeping the temperature within the range of −5 to +5° C. until a pH of 1.5 was reached (22.5 ml conc. HCl used). The batch was agitated for-about 1.5 hours at about 2.7° C. The solid product was recovered by filtration. The batch was dried under vacuum at 40–45° C. The 2,4,6-trimethylpyrimidine-5-carboxylic acid was recrystallized from ethyl acetate. m. p. 163–164° C., 1H NMR (CD3OD): δ2.43 (6H, s, CH3), δ2.52 (3H, s, CH3). 13H CMR (CD3OD): δ170.42, δ168.30, δ166.09, δ126.63, δ25.64, δ22.97. HR-MS; Calculated for C8H11N2O2, m/z=167.0821. Found 167.0816.

reactant | Methyl 2,4,6-trimethylpyrimidine-5-carboxylate | 27 g | CC1=NC(=C(C(=N1)C)C(=O)OC)C | C9H12N2O2
reactant | methanol | 27 ml | CO | CH4O
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | HCl | 22.5 ml | Cl | ClH
solvent | water | 27 ml | O | H2O
product | 2,4,6-Trimethylpyrimidine-5-Carboxylic Acid | CC1=NC(=C(C(=N1)C)C(=O)O)C | C8H10N2O2
